US09216980B2
Step 2: 4-(Piperidin-4-ylamino)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
tert-Butyl 4-{6-cyano-9-(2-trimethylsilanylethoxymethyl)-dipyrido[2,3-b;4′,3′-d]pyrrol-4-ylamino}piperdine-1-carboxylate (80 mg, 0.14 mmol) was dissolved in 1,4-dioxane (0.4 mL) and then treated with 48% HBr(aq) (0.5 mL) and heated at 75° C. for 15 minutes. The cooled reaction mixture was then basified to pH ˜12 by dropwise addition of 6N sodium hydroxide and then immediately acidified to pH ˜8-9 by dropwise addition of concentrated hydrochloric acid, producing a cloudy precipitate. The solid was collected by centrifugation, dissolved in dimethylsulfoxide (2 mL), and purified by preparative HPLC (5-85% methanol in water (0.1% formic acid) over 30 min, 35 mL/min) to afford the title compound as a pale yellow solid (20 mg, 30% over two steps). 1H NMR (DMSO-D6, 400 MHz): 9.08 (s, 1H), 8.83 (s, 1H), 8.20 (d, J=5.9 Hz, 1H), 6.63 (d, J=6.0 Hz, 1H), 6.46 (d, J=8.0 Hz, 1H), 3.74 (m, 1H), 3.11 (m, 2H), 2.71 (m, 2H), 1.97 (m, 2H), 1.70 (m, 2H). LCMS (Method E): RT=2.28 min, M+H+=293.

reactant | tert-Butyl 4-{6-cyano-9-(2-trimethylsilanylethoxymethyl)-dipyrido[2,3-b;4′,3′-d]pyrrol-4-ylamino}piperdine-1-carboxylate | 0.14 mmol, 80 mg | C(#N)C1=CC=2C3=C(N(C2C=N1)COCC[Si](C)(C)C)N=CC=C3NC3CCN(CC3)C(=O)OC(C)(C)C | C27H38N6O3Si
reactant | HBr | 0.5 mL | Br | BrH
reactant | sodium hydroxide | 6N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,4-dioxane | 0.4 mL | O1CCOCC1 | C4H8O2
product | 4-(Piperidin-4-ylamino)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 20 mg, 30% | N1CCC(CC1)NC1=CC=NC=2NC3=C(C21)C=C(N=C3)C#N | C16H16N6
